US08133909B2
[2-(4-Trifluoromethyl-phenyl)-ethyl]-(6-trifluoromethyl-pyridin-3-yl)-amine
In analogy to example 33, step 1, (4-trifluoromethyl-phenyl)-acetic acid (commercially available) was coupled with 6-trifluoromethyl-pyridin-3-ylamine (commercially available) to give the title compound MS m/e: 335.1 [M+H]+.

reactant | (4-trifluoromethyl-phenyl)-acetic acid | FC(C1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | 6-trifluoromethyl-pyridin-3-ylamine | FC(C1=CC=C(C=N1)N)(F)F | C6H5F3N2
product | [2-(4-Trifluoromethyl-phenyl)-ethyl]-(6-trifluoromethyl-pyridin-3-yl)-amine | FC(C1=CC=C(C=C1)CCNC=1C=NC(=CC1)C(F)(F)F)(F)F | C15H12F6N2
